US05189054
Preparation of 3-[(Phenacyl)carboxymethyl-amino]-2-carboxy-4,6-dichloroindole
Dissolve 3-[(phenacyl)carbethoxymethyl-amino]-2-carbethoxy-4,6-dichloroindole (0.29 g, 0.626 mmol) in tetrahydrofuran (27 mL) and water (13 mL). Add lithium hydroxide monohydrate (0.158 g, 3.76 mmol) and stir overnight. Pour into 1N hydrchloric acid (100 mL) and extract into ethyl acetate. Dry (MgSO4) and evaporate the solvent in vacuo. Recrystallize (ethyl acetate/hexane) to give the title compound (0.15 g, mp 235°-7° C.

reactant | 3-[(phenacyl)carbethoxymethyl-amino]-2-carbethoxy-4,6-dichloroindole | 0.626 mmol, 0.29 g | C(C(=O)C1=CC=CC=C1)CCOC(=O)CNC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C23H22Cl2N2O5
reactant | lithium hydroxide monohydrate | 3.76 mmol, 0.158 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
solvent | water | 13 mL | O | H2O
product | 3-[(Phenacyl)carboxymethyl-amino]-2-carboxy-4,6-dichloroindole | C(C(=O)C1=CC=CC=C1)N(C1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)O)CC(=O)O | C19H14Cl2N2O5
